US08039478B2
Step A: 3-(dimethylamino)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To methylene chloride (10 mL) was added [B] N-(dichloromethylene)-N-methylmethanaminium chloride (0.21 g, 1.3 mmol). After stirring for 5 mins, (2Z)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (0.10 g, 0.42 mmol) was added, and the mixture was stirred at rt for 5 hrs. LCMS analysis showed product as a major peak was formed. 1N NaOH was carefully added to neutralize the acid, and the mixture was extracted with methylene chloride three times. The combined organic layers were dried by MgSO4, filtered and concentrated in vacuo to yield the desired product (84 mg, 69%). LCMS calculated for C13H20N7O (M+H): 290.2. found 290.1.

reactant | N-(dichloromethylene)-N-methylmethanaminium chloride | 1.3 mmol, 0.21 g | [Cl-].ClC(=[N+](C)C)Cl
reactant | (2Z)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 0.42 mmol, 0.10 g | C(CCCC)N1\C(\NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(dimethylamino)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 84 mg, 69% | CN(C1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O)C | C13H19N7O
